US08975254B2
c) N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxamide
5-Oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylic acid (0.05 g; 0.24 mmol), HOBt (0.049 g; 0.37 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.07 g; 0.37 mmol) were added to 2.5 ml of DCM. To this a mixture of 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.06 g; 0.24 mmol) and DIPEA (0.064 ml; 0.37 mmol) was added dropwise and the mixture was stirred overnight after which 10 ml of DCM was added. The mixture was washed with 3×5 ml of water and the combined water phases were extracted with 2×5 ml of DCM. The combined organic layers were dried over Na2SO4, filtered and evaporated to dryness. The product was purified with flash chromatography using DCM/MeOH as gradient eluent. The combined fractions gave 18 mg of the product. 1H-NMR (400 MHz; d6-DMSO): δ 1.23 (s, 1H), 3.65-3.70 (m, 2H), 4.37 (t, 2H), 5.83 (s, 1H), 6.97 (d, 1H), 7.31-7.35 (t, 1H), 7.45-7.49 (t, 2H), 7.76 (d, 2H), 7.85-7.89 (m, 2H), 7.94-7.96 (m, 1H), 8.09 (d, 1H), 8.28 (m, 1H).

reactant | 5-Oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxylic acid | 0.24 mmol, 0.05 g | O=C1C=C(NN1C1=CC=CC=C1)C(=O)O | C10H8N2O3
reactant | HOBt | 0.37 mmol, 0.049 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.37 mmol, 0.07 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.24 mmol, 0.06 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
reactant | DIPEA | 0.37 mmol, 0.064 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-3-carboxamide | 18 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C=1NN(C(C1)=O)C1=CC=CC=C1 | C22H17ClN6O2
